US04798833
9-[4-hydroxy-2-(hydroxymethyl)butyl]guanine (Method C)
Dimethyl 2-(2-amino-6-chloropurin-9-ylmethyl)succinate (8.00 g, 0.0244 mol) was dissolved in 200 ml of tert. butanol at 50° C., lithium borohydride (2.66 g, 0.122 mol) was added in portions, and the mixture was stirred for 1 h. Then 100 ml of water was added and the stirring was continued over-night, the inorganic salts were filtered off and the solution was evaporated to dryness in vacuum. The residue was found to contain 78 mole-% of 2-amino-6-tert.butoxy-9-[4-hydroxy-2(hydroxymethyl)butyl]purine together with the 6-chloro compound.

reactant | Dimethyl 2-(2-amino-6-chloropurin-9-ylmethyl)succinate | 0.0244 mol, 8.00 g | NC1=NC(=C2N=CN(C2=N1)CC(C(=O)OC)CC(=O)OC)Cl | C12H14ClN5O4
reactant | lithium borohydride | 0.122 mol, 2.66 g | [BH4-].[Li+]
reactant | water | 100 ml | O | H2O
solvent | tert. butanol | 200 ml | C(C)(C)(C)O | C4H10O
product | 9-[4-hydroxy-2-(hydroxymethyl)butyl]guanine | OCCC(CN1C=2N=C(NC(C2N=C1)=O)N)CO | C10H15N5O3
